US06090802
To a solution of 1-(4-nitrobenzyloxycarbonyl)-L-proline (3.67 g) in anhydrous acetonitrile (50 ml), N,N-carbonyldiimidazole (1.86 g) was added at room temperature. After stirring for one hour, a solution of (3S)-3-amino-1(tert-butoxycarbonyl)pyrrolidine (1.86 g) in anhydrous acetonitrile (20 ml) was added to the reaction mixture under ice cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was then concentrated by evaporation under reduced pressure. To the residue, ethyl acetate was added. The resulting mixture was washed with water and saturated saline, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The residue was purified by chromatography through a silica gel column (ethyl acetate:dichloromethane=1:1), whereby 3.31 g of (3S)-1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)-L-prolylamino]pyrrolidine were obtained as a colorless amorphous substance.

reactant | 1-(4-nitrobenzyloxycarbonyl)-L-proline | 3.67 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)CCC2)C=C1 | C13H14N2O6
reactant | N,N-carbonyldiimidazole | 1.86 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (3S)-3-amino-1(tert-butoxycarbonyl)pyrrolidine | 1.86 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (3S)-1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)-L-prolylamino]pyrrolidine | 3.31 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC([C@H]1N(CCC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H30N4O7
